US08791255B2
The product is prepared according to the procedure described in example 68, using 275 mg of sodium [1-methyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate, 307 mg of 4-chloroindoline and 254 mg of N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride in a mixture of 161 μl of pyridine and 4.0 ml of N,N-dimethylformamide. 84 mg of 2-[2-(4-chloro-2,3-dihydro-1H-indol-1-yl)-2-oxoethyl]-3-methyl-6-(morpholin-4-yl)pyrimidin-4(3H)-one are obtained in the form of a slightly pinkish powder, the characteristics of which are the following:

reactant | sodium [1-methyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 275 mg | CN1C(=NC(=CC1=O)N1CCOCC1)CC(=O)[O-].[Na+]
reactant | 4-chloroindoline | 307 mg | ClC1=C2CCNC2=CC=C1 | C8H8ClN
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 254 mg | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 161 μl | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 4.0 ml | CN(C=O)C | C3H7NO
product | 2-[2-(4-chloro-2,3-dihydro-1H-indol-1-yl)-2-oxoethyl]-3-methyl-6-(morpholin-4-yl)pyrimidin-4(3H)-one | 84 mg | ClC1=C2CCN(C2=CC=C1)C(CC1=NC(=CC(N1C)=O)N1CCOCC1)=O | C19H21ClN4O3
